US06825208B2
(0.1 mmol; 50.5 mg) of 2′-(2-Carbamimidoyl-5,6a,7,11b-tetrahydro-6H-indeno[2,1-c]quinolin-6-yl)-5′-hydroxy-4′-methoxy-biphenyl-4-carboxylic acid was dissolved in 4 mL of DMF followed by the addition of HATU (0.3 mmol; 114 mg), N,N-diisoproplyethylamine (0.6 mmol; 0.1 mL) and isobutylamine (0.6 mmol; 0.6 ml). The reaction was stirred at room temperature for 18 hours, filtered and purified by LC/MS prep system to give 2′-(2-Carbamimidoyl-5,6a,7,11b-tetrahydro-6H-indeno[2,1-c]quinolin-6-yl)-5′-hydroxy-4′-methoxy-biphenyl-4-carboxylic acid isobutyl-amide. Mass spectrum: 561 (M+1).

reactant | 2′-(2-Carbamimidoyl-5,6a,7,11b-tetrahydro-6H-indeno[2,1-c]quinolin-6-yl)-5′-hydroxy-4′-methoxy-biphenyl-4-carboxylic acid | 0.1 mmol, 50.5 mg | C(N)(=N)C=1C=C2C3C(C(NC2=CC1)C1=C(C=C(C(=C1)OC)O)C1=CC=C(C=C1)C(=O)O)CC1=CC=CC=C13 | C31H27N3O4
reactant | HATU | 0.3 mmol, 114 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisoproplyethylamine | 0.6 mmol, 0.1 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | isobutylamine | 0.6 mmol, 0.6 ml | C(C(C)C)N | C4H11N
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2′-(2-Carbamimidoyl-5,6a,7,11b-tetrahydro-6H-indeno[2,1-c]quinolin-6-yl)-5′-hydroxy-4′-methoxy-biphenyl-4-carboxylic acid isobutyl-amide | C(C(C)C)NC(=O)C1=CC=C(C=C1)C1=C(C=C(C(=C1)O)OC)C1NC2=CC=C(C=C2C2C1CC1=CC=CC=C12)C(N)=N | C35H36N4O3
